US07531532B2
Pyrrolidine-1-carbothioic acid [4-(4-amino-3-chlorophenoxy)pyridin-2-yl]amide
2-Amino-4-(4-amino-3-chlorophenoxy)pyridine (250 mg) as disclosed in WO 02/32872 was dissolved in tetrahydrofuran (5 ml) under a nitrogen atmosphere, and then triethylamine (0.185 ml) and phenyl chlorothioformate (0.184 ml) were added dropwise thereto while cooling in an ice bath, followed by stirring at room temperature for 2.5 hrs. To the reaction mixture were further added triethylamine (0.074 ml) and phenyl chlorothioformate (0.073 ml), followed by stirring at room temperature for 40 min. To the reaction mixture was added pyrrolidine (0.530 ml), followed by stirring overnight. Pyrrolidine (0.530 ml) was further added thereto, followed by stirring for 1 hr. The reaction mixture was warmed to 40° C. and stirred for 30 min, and warmed to 50° C. and stirred for 2.5 hrs. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed with brine, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then purified by silica gel column chromatography (eluent; hexane:ethyl acetate=1:1 to 1:3). Fractions containing the target compound were concentrated to give a residue, which was dried in vacuum to provide the titled compound (73.2 mg, 19.8%) as a colorless solid.

reactant | 2-Amino-4-(4-amino-3-chlorophenoxy)pyridine | 250 mg | NC1=NC=CC(=C1)OC1=CC(=C(C=C1)N)Cl | C11H10ClN3O
reactant | triethylamine | 0.185 ml | C(C)N(CC)CC | C6H15N
reactant | phenyl chlorothioformate | 0.184 ml | ClC(=S)OC1=CC=CC=C1 | C7H5ClOS
reactant | triethylamine | 0.074 ml | C(C)N(CC)CC | C6H15N
reactant | phenyl chlorothioformate | 0.073 ml | ClC(=S)OC1=CC=CC=C1 | C7H5ClOS
reactant | pyrrolidine | 0.530 ml | N1CCCC1 | C4H9N
reactant | Pyrrolidine | 0.530 ml | N1CCCC1 | C4H9N
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | Pyrrolidine-1-carbothioic acid [4-(4-amino-3-chlorophenoxy)pyridin-2-yl]amide | 73.2 mg, 19.8% | NC1=C(C=C(OC2=CC(=NC=C2)NC(=S)N2CCCC2)C=C1)Cl | C16H17ClN4OS
